US07300951B2
6. 5,5,5-Trifluoro-L-alloisoleucine Hydrochloride
A suspension of N-[(1S, 2R)-1-cyano-4,4,4-trifluoro-2-methylbutyl]-4-methylbenzenesulfinamide (2.34 g, 7.69 mmol) in concentrated hydrochloric acid (75 mL) was heated to reflux for 18.5 h. After cooling to 250C, the reaction mixture was washed with diethyl ether several times. The aqueous layer was concentrated to give a mixture of 5,5,5-trifluoro-L-alloisoleucine, NH4Cl, and toluenesulfonic acid (2.35 g). The crude amino acid was used in the next step without further purification. Mass spectrum (−ESI): 309 (M−H)−.

reactant | N-[(1S, 2R)-1-cyano-4,4,4-trifluoro-2-methylbutyl]-4-methylbenzenesulfinamide | 7.69 mmol, 2.34 g | C(#N)[C@H]([C@@H](CC(F)(F)F)C)NS(=O)C1=CC=C(C=C1)C | C13H15F3N2OS
reactant | 5,5,5-trifluoro-L-alloisoleucine | FC(C[C@H]([C@H](N)C(=O)O)C)(F)F | C6H10F3NO2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | toluenesulfonic acid | 2.35 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | hydrochloric acid | 75 mL | Cl | ClH
product | 5,5,5-Trifluoro-L-alloisoleucine Hydrochloride | Cl.FC(C[C@H]([C@H](N)C(=O)O)C)(F)F | InChI=1S/C6H10F3NO2.ClH/c1-3(2-6(7,8)9)4(10)5(11)12;/h3-4H,2,10H2,1H3,(H,11,12);1H/t3-,4+;/m1./s1
